US08669208B2
2,2,7-Trifluoro-6-hydrazino-4-prop-2-ynyl-4H-benzo[1,4]oxazin-3-one
To a mechanically stirred suspension of 6-amino-2,2,7-trifluoro-4-(prop-2-ynyl)-2H-benzo[b][1,4]oxazin-3(4H)-one (20 g, 78 mmol) in conc. hydrochloric acid (100 ml, 1218 mmol) at −5° C. was added dropwise, over a period of 30 minutes, a solution of sodium nitrite (5.82 g, 84 mmol) in water (40 ml), maintaining the temperature below −5° C. The resulting mixture was stirred at ˜0° C. for 1 hour. Subsequently the stirred reaction mixture was cooled to −35° C. with a dry-ice/2-propanol cooling bath. A cooled solution (−10° C.) of tin(II) chloride (37.0 g, 195 mmol) in conc. hydrochloric acid (40 ml, 487 mmol) was added over the course of ca. 1 minute, during which time the temperature increased from −35 to −10° C. The resulting mixture was stirred at 0° C. for 1 hour. Then 80 g kieselguhr was added to the reaction mixture and the resulting mixture was neutralised to pH˜7 by slow addition of 10% aqueous NaOH solution under stirring. The whole was filtered and the filter cake and filtrate were extracted twice with diethyl ether. The extracts were washed with brine, dried over Na2SO4 and concentrated in vacuo to yield 17 g of product, having a purity of ca. 85%. Trituration with diisopropyl ether gave 11.87 g of product. A further quantity of 3.6 g of product was obtained by concentration of the mother liquor.

reactant | 6-amino-2,2,7-trifluoro-4-(prop-2-ynyl)-2H-benzo[b][1,4]oxazin-3(4H)-one | 78 mmol, 20 g | NC1=CC2=C(OC(C(N2CC#C)=O)(F)F)C=C1F | C11H7F3N2O2
reactant | hydrochloric acid | 1218 mmol, 100 ml | Cl | ClH
reactant | sodium nitrite | 84 mmol, 5.82 g | N(=O)[O-].[Na+]
reactant | tin(II) chloride | 195 mmol, 37.0 g | [Sn](Cl)Cl
reactant | hydrochloric acid | 487 mmol, 40 ml | Cl | ClH
reactant | NaOH | [OH-].[Na+]
solvent | water | 40 ml | O | H2O
product | 2,2,7-Trifluoro-6-hydrazino-4-prop-2-ynyl-4H-benzo[1,4]oxazin-3-one | 17 g | FC1(OC2=C(N(C1=O)CC#C)C=C(C(=C2)F)NN)F | C11H8F3N3O2
